US07749999B2
6-Boc-Amino-naphthalen-1-ol.
6-Amino-naphthalen-1-ol (5 g, 31.4 mmol) was suspended in 50 mL 0.5N NaHCO3 and 50 mL EtOAc. Boc2O (6.85 g, 31.4 mmol) was added and the reaction mixture was stirred at 60° C. overnight. Complete conversion of starting material was achieved. The solvent layers were separated, the organic layer was washed with water, dried over MgSO4 and evaporated to yield the target material.

reactant | 6-Amino-naphthalen-1-ol | 31.4 mmol, 5 g | NC=1C=C2C=CC=C(C2=CC1)O | C10H9NO
reactant | Boc2O | 31.4 mmol, 6.85 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 0.5N, 50 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 6-Boc-Amino-naphthalen-1-ol | C(=O)(OC(C)(C)C)C=1C=C2C=CC(=C(C2=CC1)O)N | C15H17NO3
